US04307091
4H-1,4-Benzoxazin-2,3-dione.
Ortho-aminophenol (21.8 g) in 200 ml of ortho-dichlorobenzene was added as a slurry to 18.3 ml oxalyl dichloride (1.05 mol eq) in 150 ml ortho-dichlorobenzene at about 100° C. with stirring. After the addition (about 30 min.), the reaction mixture was heated to about 70° C. and then kept at this temperature for approximately 1.5 hours. The reaction mixture was then cooled, filtered and the solid product, 4H-1,4-benzoxazin-2,3-dione was washed with ether to give 27 g., m.p. 265°-268° C.

reactant | Ortho-aminophenol | 21.8 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | oxalyl dichloride | 1.05 mol, 18.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ortho-dichlorobenzene | 200 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | ortho-dichlorobenzene | 150 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4H-1,4-Benzoxazin-2,3-dione | O1C(C(NC2=C1C=CC=C2)=O)=O | C8H5NO3
